US07838521B2
B. (3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-ylamine
A suspension of 50 mmol of 3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-one, 75 mmol of (R)-phenylethyl amine, 5 mmol of p-toluenesulfonic acid mono-hydrate and 1 g of platin-on-carbon catalyst (3% Pt) in 400 ml of absolute methanol is hydrogenated at 60° C. and 100 mbar hydrogen pressure until no further ketone can be detected by TLC. After cooling to RT the suspension is filtered over a tonsil layer and the filtrate is concentrated under vacuum. The viscous residue is partitioned between dichloromethane and 20% citric acid solution. The pH of the aqueous phase is neutralized to about 6.0 with diluted sodium hydroxide solution and the aqueous phase is extracted 4 times with dichloromethane. The combined organic phases are dried over sodium sulfate and concentrated under vacuum yielding [(3R,4R)-3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-yl]-((R)-1-phenyl-ethyl)-amine as main compound. The viscous residue is not further purified and used for the next step as raw product as it is. The viscous residue is dissolved in 1.2 equivalent of 37% hydrochloric acid and methanol and palladium-on-carbon catalyst is added. The slurry is hydrogenated at 60° C. and 100 mbar hydrogen pressure until no further [(3R,4R)-3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-yl]-((R)-1-phenyl-ethyl)-amine can be detected by TLC. After cooling to RT the suspension is filtered over a tonsil layer and the filtrate is concentrated under vacuum. The viscous residue is purified by silica gel or aluminium oxide chromatography. The main product fraction is concentrated in vacuo and affords the title compound as solid foaming residue.

reactant | hydrochloric acid | 1.2 equivalent | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | [(3R,4R)-3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-yl]-((R)-1-phenyl-ethyl)-amine | C(C)OC=1C=C(C=CC1OC)[C@H]1COCC[C@H]1N[C@H](C)C1=CC=CC=C1 | C22H29NO3
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | (3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-ylamine | C(C)OC=1C=C(C=CC1OC)[C@H]1COCC[C@H]1N | C14H21NO3
